US07838499B2
Preparation of N-(4-(2-chloro-5-((2S,3S,4R,5R,6R)-3,4,5-tris(benzyloxy)-6-(benzyloxymethyl)tetrahydro-2H-pyran-2-yl)benzyl)benzyl)cyclopropanamine (Intermediate AQ)
A solution of 4-(2-chloro-5-((2S,3S,4R,5R,6R)-3,4,5-tris(benzyloxy)-6-(benzyloxymethyl)tetrahydro-2H-pyran-2-yl)benzyl)benzaldehyde (intermediate AP) (40 mg) in CH2Cl2:CH3CN (v/v=1:1) (1.0 mL) was cooled to 0° C., followed by addition of cyclopropylamine (15 mg) and acetic acid (1 mg). After 30 min, NaBH3CN (17 mg) was added. The reaction was monitored by LC-MS. After the starting material was consumed, ethyl acetate (20 mL) and water (5 mL) were added to quench the reaction. The organic layer was separated and the aqueous layer was extracted with ethyl acetate. The organic extracts were combined and washed with brine. Removal of ethyl acetate under reduced pressure and purification of the crude product by preparative TLC gave intermediate AQ (30 mg). MS ESI (m/z): 794 (M+H)+.

reactant | 4-(2-chloro-5-((2S,3S,4R,5R,6R)-3,4,5-tris(benzyloxy)-6-(benzyloxymethyl)tetrahydro-2H-pyran-2-yl)benzyl)benzaldehyde | 40 mg | ClC1=C(CC2=CC=C(C=O)C=C2)C=C(C=C1)[C@@H]1O[C@@H]([C@H]([C@@H]([C@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1 | C48H45ClO6
reactant | CH3CN | 1.0 mL | CC#N | C2H3N
reactant | cyclopropylamine | 15 mg | C1(CC1)N | C3H7N
reactant | NaBH3CN | 17 mg | [BH3-]C#N.[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | acetic acid | 1 mg | C(C)(=O)O | C2H4O2
product | N-(4-(2-chloro-5-((2S,3S,4R,5R,6R)-3,4,5-tris(benzyloxy)-6-(benzyloxymethyl)tetrahydro-2H-pyran-2-yl)benzyl)benzyl)cyclopropanamine | ClC1=C(CC2=CC=C(CNC3CC3)C=C2)C=C(C=C1)[C@@H]1O[C@@H]([C@H]([C@@H]([C@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1 | C51H52ClNO5
